US05932601
In substantially the same manner as in Reference Example 71, ethyl 5-(4-benzyloxy-3-methoxyphenyl)pentanoate was condensed with diethyl oxalate. The product was subjected to decarboxylation reaction, which was then subjected to reduction with sodium borohydride to yield ethyl 6-(4-benzyloxy-3-methoxyphenyl)-2-hydroxyhexanoate.

reactant | ethyl 5-(4-benzyloxy-3-methoxyphenyl)pentanoate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCCC(=O)OCC)OC | C21H26O4
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium borohydride | [BH4-].[Na+]
product | ethyl 6-(4-benzyloxy-3-methoxyphenyl)-2-hydroxyhexanoate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCCC(C(=O)OCC)O)OC | C22H28O5
